2171-02-17 06:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Patient feels better since starting Decadron. Is now able to sit almost
   upright, which had been previously causing severe SOB and chest pain.
   Able to sleep comfortably with right side down.
   24 Hour Events:
   Started chemo- received etoposide/cisplatin
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2171-2-17**] 04:45 AM
   Infusions:
   Heparin Sodium - 1,950 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-2-17**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.2
C (97.1
   HR: 102 (88 - 123) bpm
   BP: 131/83(93) {114/61(73) - 149/90(99)} mmHg
   RR: 15 (11 - 31) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  2,717 mL
                                                                  1,485 mL
   PO:
             TF:
   IVF:
                                                                  2,717 mL
                                                                  1,485 mL
   Blood products:
   Total out:
                                                                  2,400 mL
                                                                  1,150 mL
   Urine:
                                                                  2,400 mL
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    317 mL
                                                                    335 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///26/
   Physical Examination
   GENERAL: well appearing, anxious, NAD, able to speak in full sentences
   HEENT: nc/at, PERRLA, EOMI, anicteric, MMM, no OP lesions
   neck:+facial plethora, neck swelling, supple
   CARDIAC: s1s2 rrr no m/r/g
   LUNG: Absent BS on Right to mid field, [**Month (only) **] BS on Left base
   ABDOMEN:+bs, soft, +slight TTP Ruq, no guarding/rebound.
   EXT: R.UE with ~2+edema, L.UE 1+edema. LE without edema, no c/c.
   NEURO: AAOx3, CN2-12 intact, motor [**5-22**]
   DERM:no rashes.
   Labs / Radiology
   102 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.9 mEq/L
   5 mg/dL
   105 mEq/L
   140 mEq/L
        [image002.jpg]
                             [**2171-2-16**]  09:20 AM
   Cr
   0.7
   Glucose
   102
   Other labs: PT / PTT / INR:14.9/69.8/1.3, ALT / AST:80/52, Alk Phos / T
   Bili:138/0.2, Albumin:3.3 g/dL, LDH:339 IU/L, Ca++:8.8 mg/dL, Mg++:2.2
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Pt is a 42 y.o male with no PMH who presented with
   SOB/fever/cough/weight loss/SOB and was found to have SVC syndrome and
   a mediastinal mass.
   .
   # mediastinal mass: Per onc, most likely this is carcinomatosis pattern
   of germ cell-teratoma given appearance on CT, elevated AFP in serum.
   Complicated by SVC syndrome and PE. There is concern for additionally
   affected locations given lesion in liver, however decision was made to
   start chemo urgently overnight.  Started etoposide, cisplatin day [**2-22**].
   Concern re: tumor lysis and/or worsening of SVC occlusion with onset of
   CTX so in ICU. Currently facial edema and SOB are improved, likely due
   to Decadron, with no signs of worsening SVC syndrome.
   -chemo protocol per onc
   -allopurinol and steroids daily
   - ISS while on steroids
   -q8h tumor lysis labs
   -f/u pathology, HCP will obtain tissue block from OSH
   -cough medication prn, nebs prn
   - D/C CTX/azithro since 7 day course complete today
   .
   #SVC syndrome
   -caused by mass
 incomplete occlusion
   -iv heparin
   -monitor clinically in ICU as chemo could cause swelling and further
   compression.
   -would notify IR vs. vasc if clinical worsening.
   .
   #pulmonary embolus
   -Noted on outside hospital CT.
   -cont heparin.
   -O2 prn.
   #transaminitis-
   -malignancy vs. infection vs. medication effect.
   -also ? hepatic congestion due to RHF effect
   -continue to monitor/trend
   - MRI to further characterize
   - f/u hepatitis serologies
   .
   #anemia
   - baseline not known.
   - ? due to malignancy
   - monitor hct whil on heparin to ensure not actively bleeding
   -guaiac stools
   -monitor HCTs
   -iron studies
   -T+S
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, heparin IV, bowel regimen
   # ACCESS: PIV, needs placement of L midline
   # CODE: full confirmed.
   # CONTACT: girlfriend [**Name (NI) 376**] at [**Telephone/Fax (1) 12948**] or [**Telephone/Fax (1) 12949**] cell. Pt
   reports she is HCP.
   # DISPO: ICU for 1-2 days of chemo
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2171-2-16**] 01:18 AM
   20 Gauge - [**2171-2-16**] 01:18 AM
   Prophylaxis:
   DVT: heparin IV
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending response to chemo

2171-02-17 09:06:00 Physician Attending Progress Note
Chief Complaint: SVC syndrome, initiation of chemotherapy
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Chemotherapy initiated overnight as guided by oncology service
   (atopaside, cis-platinum, dexamethasone)
   Prehydrated and started on allopurinol
   LLL pulmonary embolism incidental finding on outside hospital CTA,
   heparin drip initiated
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2171-2-17**] 04:45 AM
   Infusions:
   Heparin Sodium - 1,950 units/hour
   Other ICU medications:
   Other medications:
   allopurinol
   dexamethasone
   zofran
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Heme / Lymph: Anemia
   Pain: [**1-19**] Minimal
   Flowsheet Data as of  [**2171-2-17**] 09:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 35.6
C (96
   HR: 103 (88 - 123) bpm
   BP: 147/106(114) {114/61(73) - 149/106(114)} mmHg
   RR: 18 (11 - 31) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  2,717 mL
                                                                  1,577 mL
   PO:
             TF:
   IVF:
                                                                  2,717 mL
                                                                  1,577 mL
   Blood products:
   Total out:
                                                                  2,400 mL
                                                                  1,150 mL
   Urine:
                                                                  2,400 mL
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    317 mL
                                                                    427 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, facial plethora
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: right base [**1-19**] way up), prominent chest wall veins
   Abdominal: Soft, Bowel sounds present, minimal RUQ tenderness, no
   rebound/guarding
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, RUE > LUE edema
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): A & O x 3 , Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   11.8 g/dL
   534 K/uL
   142 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.1 mEq/L
   8 mg/dL
   102 mEq/L
   139 mEq/L
   35.7 %
   9.4 K/uL
        [image002.jpg]
                             [**2171-2-16**]  09:20 AM
                             [**2171-2-17**]  05:00 AM
   WBC
   9.4
   Hct
   35.7
   Plt
   534
   Cr
   0.7
   0.7
   Glucose
   102
   142
   Other labs: PT / PTT / INR:14.4/46.9/1.2, ALT / AST:112/84, Alk Phos /
   T Bili:155/0.3, Differential-Neuts:92.1 %, Lymph:5.7 %, Mono:2.0 %,
   Eos:0.1 %, Albumin:3.6 g/dL, LDH:363 IU/L, Ca++:9.1 mg/dL, Mg++:2.2
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), MEDIASTINAL MASS:  Pathology consistent
   with poorly differentiated germ cell tumor.  Testicular ultrasound to
   be done.
 SVC SYNDROME:  Plethora and neck vein distention improved.  Patient
   able to lie at an angle without SOB (previously sitting up in bed).
 CHEMOTHERAPY INITIATION:  Continue to monitor in ICU per oncology
   service to monitor for tumor lysis and worsening of SVC syndrome.
 LIVER ABNORMALITY:  MRI of liver for further evaluation.
 PULMONARY EMBOLISM:  Likely secondary to hypercoaguable state in
   setting of malignancy.
 POSTOBSTRUCTIVE PNEUMONIA:  Completing course of CTX/azithromycin.
   Minimal cough, never productive, no hemoptysis.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2171-2-16**] 01:18 AM
   20 Gauge - [**2171-2-16**] 01:18 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent:  35 minutes
   Patient is critically ill

2171-02-18 07:10:00 Physician Resident Progress Note
Chief Complaint: Mediastinal mass
   24 Hour Events:
   [**2171-2-17**]:
   - mid-line attempt failed, PIVs instead
   - day 2 cisplatin, etoposide, and dexamethasone
   History obtained from Patient
   Allergies:
   History obtained from PatientLorazepam
   Confusion/Delir
   Last dose of Antibiotics:
   Ceftriaxone - [**2171-2-17**] 04:45 AM
   Infusions:
   Heparin Sodium - 2,250 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Denies dyspnea
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-2-18**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.8
C (96.5
   HR: 73 (73 - 115) bpm
   BP: 109/65(74) {104/57(70) - 152/106(114)} mmHg
   RR: 16 (14 - 33) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,857 mL
                                                                    902 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                  3,137 mL
                                                                    902 mL
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                    725 mL
   Urine:
                                                                  1,950 mL
                                                                    725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,907 mL
                                                                    177 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   471 K/uL
   9.8 g/dL
   136 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.3 mEq/L
   11 mg/dL
   103 mEq/L
   138 mEq/L
   30.7 %
   10.5 K/uL
        [image002.jpg]
                             [**2171-2-16**]  09:20 AM
                             [**2171-2-17**]  05:00 AM
                             [**2171-2-17**]  03:51 PM
                             [**2171-2-17**]  09:08 PM
                             [**2171-2-18**]  05:50 AM
   WBC
   9.4
   10.2
   10.5
   Hct
   35.7
   33.0
   30.7
   Plt
   534
   507
   471
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   Glucose
   102
   142
   111
   117
   136
   Other labs: PT / PTT / INR:14.8/106.1/1.3, ALT / AST:112/84, Alk Phos /
   T Bili:155/0.3, Differential-Neuts:92.1 %, Lymph:5.7 %, Mono:2.0 %,
   Eos:0.1 %, Albumin:3.6 g/dL, LDH:323 IU/L, Ca++:8.6 mg/dL, Mg++:2.2
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), LUNG
   Pt is a 42 y.o male with no PMH who presented with
   SOB/fever/cough/weight loss/SOB and was found to have SVC syndrome and
   a mediastinal mass.
   .
   #SOB/mediastinal mass
   -DDx includes carcinomatosis pattern of germ cell-teratoma vs. poorly
   differentiated non-small cell. Oncology planning start of chemo tonight
   or tomorrow pending further clarification of possible liver lesion.
   -concern re: tumor lysis and/or worsening of SVC occlusion with onset
   of CTX so in ICU
   -IVF o/n per onc
   -f/u pathology.
   -cough medication prn
   -nebs prn
   -abx for now to cover for possible post-obstructive PNA
   .
   #SVC syndrome
   -caused by mass
 incomplete occlusion
   -iv heparin.
   -monitor clinically in ICU as chemo could cause swelling and further
   compression.
   -would notify IR vs. vasc if clinical worsening.
   .
   #pulmonary embolus
   -Noted on outside hospital CT.
   -cont heparin.
   -O2 prn.
   #transaminitis-
   -malignancy vs. infection vs. medication effect.
   -also ? hepatic congestion due to RHF effect
   -continue to monitor/trend
   -RUQ u/s vs. MRI.
   .
   #anemia
   - baseline not known.
   - ? due to malignancy
   - monitor hct whil on heparin to ensure not actively bleeding
   -guaiac stools
   -monitor HCTs
   -iron studies
   -T+S
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, heparin IV, bowel regimen
   # ACCESS: PIV
   # CODE: full confirmed.
   # CONTACT: girlfriend [**Name (NI) 376**] at [**Telephone/Fax (1) 12948**] or [**Telephone/Fax (1) 12949**] cell. Pt
   reports she is HCP.
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2171-2-17**] 11:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: